US06818652B2
A solution of 4-[2-(4,4-dimethyl-thiochroman-7-yl)-heptyloxy]-benzoic acid methyl ester (0.715 g, 1.68 mmole) in 12 mL of ethanol was treated with a solution of potassium hydroxide (1.9 g) in 7.5 mL of water. THF (5 mL) was added and the mixture was heated at 45° C. for two hours, diluted with 30 mL of water and the pH adjusted to 2.0 with concentrated HCl. The mixture was extracted with three portions of 30 mL of ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give a pale yellow foam. The product was purified by trituration in pentane, to yield 0.617 g of 4-[2-(4,4-dimethyl-thiochroman-7-yl)-heptyloxy]-benzoic acid as an off-white solid. M.p.: 123.0-123.5° C.

reactant | 4-[2-(4,4-dimethyl-thiochroman-7-yl)-heptyloxy]-benzoic acid methyl ester | 1.68 mmole, 0.715 g | COC(C1=CC=C(C=C1)OCC(CCCCC)C1=CC=C2C(CCSC2=C1)(C)C)=O | C26H34O3S
reactant | potassium hydroxide | 1.9 g | [OH-].[K+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | water | 7.5 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 4-[2-(4,4-dimethyl-thiochroman-7-yl)-heptyloxy]-benzoic acid | 0.617 g | CC1(CCSC2=CC(=CC=C12)C(COC1=CC=C(C(=O)O)C=C1)CCCCC)C | C25H32O3S
